US04048191
To a suspension of 12.2g. of 50% sodium hydride (mineral oil) in 1,2-dimethoxyethane is added 70 g. (0.24 mole) of 4-chloro-5-(p-chlorobenzoyl)-1-methylpyrrole-2- acetonitrile in 1,2-dimethoxyethane over a period of one half hour at room temperature. After the addition is complete, the whole is stirred for one hour and then 35 g. (0.25 mole) of methyl iodide is added. The reaction mixture is stirred for an additional 3 hours and is concentrated in vacuo; the residue is diluted with water and extracted with chloroform. After the extract is dried the chloroform is removed, leaving a brown solid residue which, upon trituration with cold water, yields 4-chloro-5- (p-chlorobenzoyl)-α-methyl-1-methylpyrrole-2-acetonitrile.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloro-5-(p-chlorobenzoyl)-1-methylpyrrole-2- acetonitrile | 0.24 mole | ClC=1C=C(N(C1C(C1=CC=C(C=C1)Cl)=O)C)CC#N | C14H10Cl2N2O
reactant | methyl iodide | 0.25 mole | CI | CH3I
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 4-chloro-5- (p-chlorobenzoyl)-α-methyl-1-methylpyrrole-2-acetonitrile | ClC=1C=C(N(C1C(C1=CC=C(C=C1)Cl)=O)C)C(C#N)C | C15H12Cl2N2O
